US05977178
(2E)-5-(tert-Butyloxycarbonylamino)-5-methylhex-2-enoic acid (5.00 g; 20.6 mmol) was dissolved in tetrahydrofuran (70 ml). Methyliodide (10.3 ml; 164 mmol) was added and the solution was cooled to 0° C. Sodium hydride (60% in oil)(2.07 g; 61.6 mmol) was added in portions and the solution was stirred at room temperature for four days. Ethyl acetate (70 ml) and water (60 ml) was added dropwise and the solvent was removed in vacuo. The crude product was dissolved in water (40 ml) and ether (40 ml). The organic phase was washed with a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The aqueous phases were mixed and 5% aqueous citric acid was added to pH 3. The aqueous phase was extracted with ethylacetate (4×50 ml). The organic phase was washed with water (2×40 ml), an aqueous solution of sodium thiosulfate (5%; 40 ml), water (40 ml), dried over MgSO4 and the solvent was removed in vacuo. The residue was dissolved in ethylacetate (45 ml) and washed with an aqueous solution of sodium hydrogensulfate (10%; 3×30 ml), dried over MgSO4 and and concentrated in vacuo to give 4.00 g of (2E)-5-(N-(tert Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid.

reactant | (2E)-5-(tert-Butyloxycarbonylamino)-5-methylhex-2-enoic acid | 20.6 mmol, 5.00 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | Methyliodide | 164 mmol, 10.3 ml | CI | CH3I
reactant | Sodium hydride | 61.6 mmol, 2.07 g | [H-].[Na+]
reactant | Ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
product | (2E)-5-(N-(tert Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid | 4.00 g | C(C)(C)(C)OC(=O)N(C)C(C/C=C/C(=O)O)(C)C | C13H23NO4
